* C:\Users\nsukh\Desktop\ITMO-courses\Electronics\ELSch_lab2\LTS\lab2_task2.asc
Q1 N001 N002 0 0 2SC4081UB
V§EK N001 0 5
V§EB N002 0 0
.model NPN NPN
.model PNP PNP
.lib C:\Users\nsukh\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc EK 0 5 0.001 EB 0.7 1.5 0.2
.backanno
.end
